US05378694
Step (2): Preparation of 1-Phenyl-3-Formyl-4-Hydroxy-2(1H)-Quinolinone.
Following the procedure set forth in Preparation B, 1- phenyl-4-hydroxy-2(1H)-quinolinone was converted to 1 -phenyl-3-formyl-4-hydroxy-(2(1H)-quinolinone. That the expected product was obtained was confirmed by the spectral data: MS: m/e 265 (M·+); NMR (DMSO): δ10.08 (s, 1H, CHO) ppm.

reactant | 1- phenyl-4-hydroxy-2(1H)-quinolinone | C1(=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)O)=O | C15H11NO2
reactant | 2(1H)-quinolinone | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
product | 1-Phenyl-3-Formyl-4-Hydroxy-2(1H)-Quinolinone | C1(=CC=CC=C1)N1C(C(=C(C2=CC=CC=C12)O)C=O)=O | C16H11NO3
